US06022883
N-diaminomethylene-3-methylsulfonyl-4-(2-hydroxy-5-chloro-3 -pyridyloxy)benzamide;
N-diaminomethylene-3-methylsulfonyl-4-(5-chloro-3-pyridyloxy)-6-methylbenzamide, m.p. 208-210°; with methyl 3-methylsulfonyl-4-(2-bromo-2-pyridyloxy)benzoate,

reactant | N-diaminomethylene-3-methylsulfonyl-4-(5-chloro-3-pyridyloxy)-6-methylbenzamide | NC(=NC(C1=CC(=C(C=C1C)OC=1C=NC=C(C1)Cl)S(=O)(=O)C)=O)N | C15H15ClN4O4S
reactant | methyl 3-methylsulfonyl-4-(2-bromo-2-pyridyloxy)benzoate | CS(=O)(=O)C=1C=C(C(=O)OC)C=CC1OC1(NC=CC=C1)Br | C14H14BrNO5S
product | N-diaminomethylene-3-methylsulfonyl-4-(2-hydroxy-5-chloro-3 -pyridyloxy)benzamide | NC(=NC(C1=CC(=C(C=C1)OC=1C(=NC=C(C1)Cl)O)S(=O)(=O)C)=O)N | C14H13ClN4O5S
